US04552703
Into a mixed solution of 8 g of fuming nitric acid and 24 g of acetic anhydride, kept at a temperature of -5° to 10° C., was added dropwise 6 g of (R)-4-hydroxy-3-methyl-2-(2-propynyl)-2-cyclopenten-1-one ([α]D23 ; -19.5° (C=1.36, in chloroform), (R)-isomer/(S)-isomer=96.7/3.3). Then, the mixture was stirred for 30 minutes at the same temperature. Thereafter, the reaction mixture was poured into 200 ml of ice water, and then subjected to a toluene extraction. The toluene layer was separated and washed with an aqueous 5% sodium hydrogencarbonate solution and then with water. The extract was dried over anhydrous magnesium sulfate and, then, concentrated to give 7.56 g of crude (R)-3-methyl-4-nitroxy-2-(2-propynyl)-2-cyclopenten-1-one.

reactant | nitric acid | 8 g | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 24 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | (R)-4-hydroxy-3-methyl-2-(2-propynyl)-2-cyclopenten-1-one | 6 g | O[C@H]1C(=C(C(C1)=O)CC#C)C | C9H10O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (R)-3-methyl-4-nitroxy-2-(2-propynyl)-2-cyclopenten-1-one | 7.56 g | CC1=C(C(C[C@H]1O[N+](=O)[O-])=O)CC#C | C9H9NO4
